US04985560
4-Methyl-N-[2-(1-methyl-2-pyrrolidinyl)ethyl]pyridazino[4,5-b]indolizin-1-amine
Following the procedure of Example 1, reaction of one equivalent of 1-chloro-4-methylpyridazino[4,5-b]indolizine, ten equivalents of 2-(1-methyl-2-pyrrolidinyl)ethylamine and one equivalent of ammonium chloride under reflux in a nitrogen atmosphere for 3 to 4 hours gave the title compound as the free base after removal of excess amine in vacuo and treatment of the residue with boiling ethyl acetate. The solid collected upon filtration was converted to the hydrochloride salt (methanol/ethereal HCl/ether), mp 169° C.

reactant | 1-chloro-4-methylpyridazino[4,5-b]indolizine | one equivalent | ClC1=NN=C(C2=C1C=C1C=CC=CN21)C | C11H8ClN3
reactant | 2-(1-methyl-2-pyrrolidinyl)ethylamine | ten equivalents | CN1C(CCC1)CCN | C7H16N2
reactant | ammonium chloride | one equivalent | [Cl-].[NH4+]
product | 4-Methyl-N-[2-(1-methyl-2-pyrrolidinyl)ethyl]pyridazino[4,5-b]indolizin-1-amine | CC=1N=NC(=C2C=C3C=CC=CN3C21)NCCC2N(CCC2)C | C18H23N5
